US09334366B2
4.3 mL (37.5 mmol) of methoxyethanol and 10.1 g (37.5 mmol) of triphenylphosphine are added to a solution of 61 g (30 mmol) of methyl 4-hydroxybenzoate in 120 ml of THF at room temperature. 7.7 mL (37.5 mmol) of diisopropyl azodicarboxylate (DIAD) in 110 mL of THF are incorporated slowly so that the temperature is maintained to 10° C. After 18 hours at room temperature, the reaction mixture is poured onto icy water and acidified with a 1N HCl solution. The aqueous phase is extracted with ethyl acetate and the organic phase is then washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. Chromatography of the residue using cyclohexane: ethyl acetate 4:1 yielded 6.6 g (98%) of pure methyl 4-(2-methoxyethoxy)benzoate as a white powder.

reactant | methoxyethanol | 37.5 mmol, 4.3 mL | COC(C)O | C3H8O2
reactant | triphenylphosphine | 37.5 mmol, 10.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-hydroxybenzoate | 30 mmol, 61 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | diisopropyl azodicarboxylate | 37.5 mmol, 7.7 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 1N | Cl | ClH
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | methyl 4-(2-methoxyethoxy)benzoate | 6.6 g, 98% | COCCOC1=CC=C(C(=O)OC)C=C1 | C11H14O4
